### PR TITLE
fix: `LambdaCalculus.Named.Term.subst` scoping problem

### PR DESCRIPTION
**Pull request by thelissimus**
## Counterexamples

Old:

```lean
def t : Term ℕ := .abs 1 (.var 0)
#eval t.subst 0 (.app (.app (.var 1) (.var 2)) (.var 3)) -- abs 2 (app (app 1 2) 3)
```

New:

```lean
def t : Term ℕ := .abs 1 (.var 0)
#eval t.subst 0 (.app (.app (.var 1) (.var 2)) (.var 3)) -- abs 4 (app (app 1 2) 3)
```

### CODE REVIEW

File: CslibTests/LambdaCalculus.lean [hunk 1]
```diff
@@ -17,4 +17,20 @@ example : (abs 0 (var 0)) =α (abs 1 (var 1)) := by
...
+def z := 2
+def w := 3
+
+attribute [simp] x y z w
+
+local instance coeNatTerm : Coe ℕ (Term ℕ) := ⟨Term.var⟩
+
+-- section 5.3.4 of TAPL
+example : (abs y (app x y))[x := (app y z : Term ℕ)] = (abs w (app (app y z) w)) := by 
+  simp [subst, fv, bv, vars, rename, instHasFreshNat, HasFresh.ofSucc, instHasSubstitutionTerm]
```
Comment (chenson2018) [inline CslibTests/LambdaCalculus.lean:34]: I added an additional test here.

**Review by chenson2018 — APPROVED** [review]
Thank you for catching this! As you can see this directory isn't quite as far as `LambdaCalculus.LocallyNameless`, so without many proofs it is easy for such things to slip by. Any further contributions would be welcome.

@fmontesi Can you confirm this also looks correct to you before I merge?

**Review by fmontesi — APPROVED** [review]
Lgtm too, thanks!
